US07326803B2
Synthesis of 4-{3-hydroxy-3-[5,5,8,8-tetramethyl-4-(4-methylbenzyloxy)-5,6,7,8-tetrahydro-2-naphthyl]prop-1-ynyl)benzoic acid
In a manner similar to that of Example 1g, by reacting 1.22 g (3.3 mmol) of 1-[5,5,8,8-tetramethyl-4-(4-methylbenzyloxy)-5,6,7,8-tetrahydro-2-naphthyl]prop-2-yn-1-ol with 680 mg (2.8 mmol) of 4-iodobenzoic acid in the presence of 27 mg of copper iodide and 49 mg of bis(triphenylphosphine)dichloropalladium. The desired product is obtained in the form of beige-colored crystals (m=900 mg; yield=67%; m.p.=219° C.).

reactant | 1-[5,5,8,8-tetramethyl-4-(4-methylbenzyloxy)-5,6,7,8-tetrahydro-2-naphthyl]prop-2-yn-1-ol | 3.3 mmol, 1.22 g | CC1(C=2C(=CC(=CC2C(CC1)(C)C)C(C#C)O)OCC1=CC=C(C=C1)C)C | C25H30O2
reactant | 4-iodobenzoic acid | 2.8 mmol, 680 mg | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
catalyst | copper iodide | 27 mg | [Cu](I)I
catalyst | bis(triphenylphosphine)dichloropalladium | 49 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-{3-hydroxy-3-[5,5,8,8-tetramethyl-4-(4-methylbenzyloxy)-5,6,7,8-tetrahydro-2-naphthyl]prop-1-ynyl)benzoic acid | yield=67% | OC(C#CC1=CC=C(C(=O)O)C=C1)C1=CC=2C(CCC(C2C(=C1)OCC1=CC=C(C=C1)C)(C)C)(C)C | C32H34O4
